US08003649B2
2-Benzyl-3,3a,4,5,6,6a-hexahydro-1H-pyrrolo[3,4-c]pyrrole hydrochloride (0.129 g, 0.54 mmol) and then diisopropylethylamine (0.070 g, 0.54 mmol) were added sequentially to a solution of 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[3,4-f]pyridazine (0.080 g, 0.36 mmol) in ethanol (2 mL). The reaction mixture was heated at 70° C. for 4 hours and then evaporated to leave an involatile residue. The residue was purified by preparative hplc using a Phenomenex Luna C18 100A column (10% silica, 21 mm diameter, 150 mm length) eluted with decreasingly polar mixtures of water (containing 0.1% trifluoroacetic acid) and acetonitrile as eluents to give a partially purified product that was further purified by ion exchange chromatography an SCX column eluted with 7M aqueous ammonia in methanol as eluents to give 6-(5-benzyl-1,3,3a,4,6,6a-hexahydropyrrolo[3,4-c]pyrrol-2-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[3,4-f]pyridazine (0.116 g, 83%) as a white solid.

reactant | 2-Benzyl-3,3a,4,5,6,6a-hexahydro-1H-pyrrolo[3,4-c]pyrrole hydrochloride | 0.54 mmol, 0.129 g | Cl.C(C1=CC=CC=C1)N1CC2CNCC2C1
reactant | diisopropylethylamine | 0.54 mmol, 0.070 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[3,4-f]pyridazine | 0.36 mmol, 0.080 g | ClC1=NN2C(C=C1)=NN=C2C(F)(F)F | C6H2ClF3N4
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 6-(5-benzyl-1,3,3a,4,6,6a-hexahydropyrrolo[3,4-c]pyrrol-2-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[3,4-f]pyridazine | 0.116 g, 83% | C(C1=CC=CC=C1)N1CC2C(C1)CN(C2)C2=NN1C(C=C2)=NN=C1C(F)(F)F | C19H19F3N6
